US06743785B2
To a solution of 5-(hydroxymethyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline (47 mmol) in dichloromethane (143 mL) at 0° C. was added tert-butyldimethylsilyl chloride (7.63 g, 49.4 mmol), followed by triethylamine (7.92 mL, 56.4 mmol) and dimethylaminopyridine (0.58 g, 4.7 mmol). The reaction was allowed to warm to room temperature and stirred 2 hours. The reaction was quenched with water, extracted with dichloromethane and the combined organics dried over sodium sulfate. The organic phase was concentrated under reduced pressure to provide 5-(tert-butyldimethylsilyloxy-methyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline. This material was treated essentially as described in Preparation II to provide the title compounds.

reactant | 5-(hydroxymethyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline | 47 mmol | OCC1CN2C3=C(C=CC=C3C1)C=C2 | C12H13NO
reactant | tert-butyldimethylsilyl chloride | 49.4 mmol, 7.63 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 56.4 mmol, 7.92 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 4.7 mmol, 0.58 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 143 mL | ClCCl | CH2Cl2
product | 5-(tert-butyldimethylsilyloxy-methyl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline | [Si](C)(C)(C(C)(C)C)OCC1CN2C3=C(C=CC=C3C1)C=C2 | C18H27NOSi
